US07476663B2
(a) 3-chloro-4-(morpholin-4-yl)-1-nitro-benzene
1.76 g (10.0 mmol) 3-chloro-4-fluoro-1-nitro-benzene are combined with 2.614 ml (30 mmol) morpholine in 5 ml DMF and heated to 105° C. with stirring for 15 min. The reaction mixture is poured into ice water, the resulting precipitate is suction filtered, washed with water and dried at 50° C. in the drying cupboard.

reactant | 3-chloro-4-fluoro-1-nitro-benzene | 10.0 mmol, 1.76 g | ClC=1C=C(C=CC1F)[N+](=O)[O-] | C6H3ClFNO2
reactant | morpholine | 30 mmol, 2.614 ml | N1CCOCC1 | C4H9NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 3-chloro-4-(morpholin-4-yl)-1-nitro-benzene | ClC=1C=C(C=CC1N1CCOCC1)[N+](=O)[O-] | C10H11ClN2O3
